US07960552B2
A solution of methyl 5-(2,4-dimethyl-3-pyridinyl)-2-(1-methylethyl)-1,4-cyclopentadiene-1-carboxylate (0.17 g, 0.62 mmol) in THF (1.7 mL) was stirred at 0° C. as a 1.5 M solution of diisopropylaluminum hydride in toluene (0.88 mL, 1.32 mmol) was added. The solution was allowed to warm to room temperature and stir overnight. The solution was then cooled to 0° C. before adding additional portion of diisopropylaluminum hydride in toluene (0.88 mL, 1.32 mmol). The solution was allowed to stir overnight before the addition a 10% aqueous solution of Rochelle's salt. The solution was then allowed to stir overnight. The solution was extracted with ethyl acetate and the organic layer was dried with MgSO4, filtered and concentrated. The residue was purified by chromatography (silica gel, dichloromethane to 19:1 dichloromethane:methanol) to yield [5-(2,4-dimethyl-3-pyridinyl)-2-(1-methylethyl)-1,4-cyclopentadien-1-yl]methanol (98 mg, 64%). 1H NMR (400 MHz, DMSO-d6): δ 8.37 (d, J=5 Hz, 1H), 7.18 (d, J=5 Hz, 1H), 4.87 (t, J=5 Hz, 1H), 4.04 (d, J=5 Hz, 2H), 3.34 (septet, J=7 Hz, overlapping water), 2.18 (s, 3H), 2.02 (s, 3H), 1.30 (d, J=7 Hz, 6H).

reactant | methyl 5-(2,4-dimethyl-3-pyridinyl)-2-(1-methylethyl)-1,4-cyclopentadiene-1-carboxylate | 0.62 mmol, 0.17 g | CC1=NC=CC(=C1C1=CCC(=C1C(=O)OC)C(C)C)C | C17H21NO2
reactant | diisopropylaluminum hydride | [H-].C(C)(C)[Al+]C(C)C
reactant | toluene | 1.32 mmol, 0.88 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 1.32 mmol, 0.88 mL | C1(=CC=CC=C1)C | C7H8
reactant | Rochelle's salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | THF | 1.7 mL | C1CCOC1 | C4H8O
product | [5-(2,4-dimethyl-3-pyridinyl)-2-(1-methylethyl)-1,4-cyclopentadien-1-yl]methanol | 98 mg, 64% | CC1=NC=CC(=C1C1=CCC(=C1CO)C(C)C)C | C16H21NO
